US09120749B2
tert-Butyl trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate
Following general procedure F, tert-butyl {trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}(methyl)carbamate (61 mg, 0.120 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (52 mg, 0.180 mmol) to afford the crude product (65 mg) as a brown oil: ESI MS m/z 584 [C31H35Cl2N3O4+H]+.

reactant | tert-butyl {trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}(methyl)carbamate | 0.120 mmol, 61 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C | C25H32BrN3O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.180 mmol, 52 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-Butyl trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate | 65 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C)C1=CC(=C(C(=C1)Cl)O)Cl | C31H35Cl2N3O4
